US04490463
Preparation of N,N'-Bis(4,5-dichloro-2-nitrophenyl)propanediamide
1-Amino-4,5-dichloro-2-nitrobenzene (113.84 g, 0.55 moles) was dissolved in THF (500 ml). Malonyl chloride (38.75 g, 0.27 moles) was added to the mixture heated to reflux. Another 500 ml portion of THF was added and refluxing was continued for two hours. HCl evolved during the reaction. The reaction mixture was then chilled in an ice bath, the solid was filtered off, washed with cold THF, and dried. A second yield was obtained by concentrating the filtrate, filtering off the solid, making a slurry of the solid in diethyl ether and filtering again. Yield 166.8 g (88%). Product was used as isolated for the next step in the sequence. Anal. Calcd. for C15H8Cl4N4O6 : C, 37.4; H, 1.7; Cl, 29.4; N, 11.6. Found: C, 37.4; H, 1.3; Cl, 29.4; N, 11.6

reactant | 1-Amino-4,5-dichloro-2-nitrobenzene | 0.55 moles, 113.84 g | NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | Malonyl chloride | 0.27 moles, 38.75 g | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | HCl | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | N,N'-Bis(4,5-dichloro-2-nitrophenyl)propanediamide | ClC1=CC(=C(C=C1Cl)NC(CC(=O)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])=O)[N+](=O)[O-] | C15H8Cl4N4O6
